US07323475B2
a. (5-Hydroxy-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-acetic acid ethyl ester
Prepared in analogy to example D-100 c) from 4-hydroxy-phthalic acid and glycine ethyl ester HCl salt. 1H NMR (200 MHz, DMSO-d6) δ 11.0 (br s, 1H), 7.74 (d, J=7.8 Hz, 1H), 7.17 (m, 2H), 4.35 (s, 2H), 4.13 (q, J=7.0 Hz, 2H), 1.20 (t, J=7.0 Hz, 3H).

reactant | 4-hydroxy-phthalic acid | OC=1C=C(C(C(=O)O)=CC1)C(=O)O | C8H6O5
reactant | glycine ethyl ester HCl salt | Cl.C(C)OC(CN)=O
product | (5-Hydroxy-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-acetic acid ethyl ester | C(C)OC(CN1C(C2=CC=C(C=C2C1=O)O)=O)=O | C12H11NO5
